US06498165B1
2-[3-Trifluoromethylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3-trifluoromethylbenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 370.2 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.58 (br s, 1H); 8.39 (br s, 1H); 7.85 (d, J=8.2 Hz, 1H); 7.69 (s, 1H); 7.61 (d, J=7.6 Hz, 1H); 7.57 (d, J=7.6 Hz, 1H); 7.49 (m, 1H); 6.85 (d, J=5.3 Hz, 1H); 6.38 (br s, 1H); 4.81 (d, J=6.2 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3-trifluoromethylbenzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
product | 2-[3-Trifluoromethylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine | FC(C=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC1)(F)F | C19H14F3N5
